Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins / Atenolol / Colchicine / Hydrochlorothiazide / 
Percocet
 
Attending: ___.
 
Chief Complaint:
Left tibial plateau fx
 
Major Surgical or Invasive Procedure:
___:  ORIF Left tibial plateau fracture with ex-fix 
adjustment

 
History of Present Illness:
Mr. ___ is a ___ year old man who suffered a Left tibial 
plateau fracture on ___ and underwent ex-fix placement with 
compartment releases due to compartment syndrome.  He was 
discharged on ___ and now presentes for operative fixation.
 
Past Medical History:
HTN
Left tibial plateau fx ___
 
Social History:
___
Family History:
n/a
 
Physical Exam:
Upon admission

Alert and oriented
Cardiac:  Regular rate rhythm
Chest:  Lungs clear bilaterally
Abdomen:  Soft non-tender non-distended
Extremities:  LLE ex-fix intact, + pulses/sensation, incsions 
intact.
 
Pertinent Results:
___ 09:23PM   GLUCOSE-170* UREA N-19 CREAT-0.9 SODIUM-133 
POTASSIUM-5.0 CHLORIDE-96 TOTAL CO2-25 ANION GAP-17
___ 09:23PM   CALCIUM-9.2 PHOSPHATE-3.9# MAGNESIUM-2.3
___ 09:23PM   WBC-13.1* RBC-2.99* HGB-9.5* HCT-29.3* MCV-98 
MCH-31.9 MCHC-32.6 RDW-14.2
___ 09:23PM   PLT COUNT-578*
___ 10:00AM   UREA N-17 CREAT-1.0 SODIUM-133 POTASSIUM-4.6
___ 10:00AM   WBC-11.1* RBC-3.20* HGB-10.4* HCT-30.7* 
MCV-96 MCH-32.6* MCHC-33.9 RDW-14.4
___ 10:00AM   PLT COUNT-528*#
___ 10:00AM   ___ PTT-19.9* ___
 
Brief Hospital Course:
Mr. ___ presented to the ___ on ___ for an elective 
ORIF of his left tibial plateau fracture.  Prior to surgery he 
was prepped and consented for surgery.  He was then taken to the 
operating room and underwent an ORIF of his left tibial plateau 
fracture with ex-fix adjustment.  He tolerate the procedure 
well, was extubated, transferred to the recovery room and then 
to the floor.  On the floor he was seen by physical therapy to 
improve his strength and mobility.  On ___ the patient's hct was 
26 and he was given 1u PRBCs.  Subsequently the patient had a 
rash develop over the chest and back and a consult was ordered.  
On ___ hematology was consulted and saw the patients rash.  It 
was felt by the team that the rash was most likely due to an 
allergy by clindamycin.  it was recommended that the drug be 
added to his allergy list.  The rest of his hospital stay was 
uneventful with his lab data and vital signs within normal 
limits and his pain controlled.  He is being discharged today in 
stable condition.  Patient will need ambulance transportation 
from ___ to home, which is 
medically necessary for transportation.  Other means 
contra-indicated.
 
Medications on Admission:
Norvasc
Spironolactone
Zocor
 
Discharge Medications:
1. Enoxaparin 40 mg/0.4 mL Syringe Sig: One (1) syringe 
Subcutaneous DAILY (Daily) for 4 weeks.
Disp:*28 syringe* Refills:*0*
2. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain: Do not operate any motor vehicle or 
machinary. Do not drink alcohol.
Disp:*90 Tablet(s)* Refills:*0*
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Left tibial plateau fracture
2. post operative blood loss anemia

 
Discharge Condition:
Stable. Patient will need ambulance transportation from ___ 
___ to home, which is medically 
necessary for transportation.  Other means contra-indicated.

 
Discharge Instructions:
Continue to be non-weight bearing on your left leg

Continue to take your lovenox injections as instructed

Please take all medication as prescribed

If you have any increased redness, drainage or swelling, or if 
you have a temperature greater than 101.5, please call the 
office or come to the emergency dpeartment.

Please take only as directed and do not drive or operate any 
machinery while taking this medication.  There is a 72 hour 
___ through ___, 9am to 4pm) response time for 
prescription refil requests.  There will be no prescription 
refils on ___, or holidays.  Please plan 
accordingly.
Physical Therapy:
Activity:  As tolerated
 Right lower extremity:  Full weight bearing
 Left lower extremity:  Non weight bearing

Treatments Frequency:
Pin care daily with ___ strength hydrogen peroxide and normal 
saline

Dry dressing daily over incision
 
Followup Instructions:
___